US06166015
2,3-Dichlorobenzaldehyde (115 mg, 0.66 mmol, 1.5 equiv.) was added to N-(pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-ylthio]acetamide in dichloroethane (3.4 mL, 0.44 mmol). Excess Na(OAc)3BH (0.2 g, 0.9 mmol, ~3 equiv.) was added and the resulting suspension was stirred vigorously overnight. The reaction mixture was diluted with ether and quenched with 1 M hydrochloric acid to afford a cloudy mixture. The organic layer was carefully removed and the aqueous phase made basic with 5 M aqueous sodium hydroxide to pH 11. After thorough extraction with ethyl acetate, the combined organic phases was washed with brine, then dried over sodium sulfate and concentrated. Chromatography on silica (0-10% methanol in ethyl acetate) afforded N-(1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-ylsulfanyl]acetamide that was converted to the hydrochloride salt using 4 M hydrochloric acid solution in dioxane and ether (60 mg).

reactant | 2,3-Dichlorobenzaldehyde | 0.66 mmol, 115 mg, 1.5 equiv. | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | N-(pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-ylthio]acetamide | N1CC(CC1)CNC(CSC1=NC=C(C=N1)C1=CC=C(C=C1)OC)=O | C18H22N4O2S
reactant | dichloroethane | 0.44 mmol, 3.4 mL | ClC(C)Cl | C2H4Cl2
reactant | Na(OAc)3BH | 0.9 mmol, 0.2 g, ~3 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | ether | CCOCC | C4H10O
product | N-(1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-ylsulfanyl]acetamide | ClC1=C(CN2CC(CC2)CNC(CSC2=NC=C(C=N2)C2=CC=C(C=C2)OC)=O)C=CC=C1Cl | C25H26Cl2N4O2S
